US05470862
A mixture of 2-ethynylpyridine (10.3 g), ethyl diazoacetate (11.6 g), and toluene (100 ml) was stirred at 85° C. for 36 hours. The resulting mixture was rotavaped and the residue recrystallized with ethanol (50ml) to afford 9.81 g of 5-(2-pyridinyl)pyrazole-3-carboxylic acid ethyl ester as tan crystallines, mp 103°-105° C. NMR: 1.43 (t, 3H), 4.40 (q, 2H), 7.32 (s, 1H, 4-pyrazolyl H), 7.30, 7.78, 8.66 (3 m, 4H, pyridinyl H's).

reactant | 2-ethynylpyridine | 10.3 g | C(#C)C1=NC=CC=C1 | C7H5N
reactant | ethyl diazoacetate | 11.6 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(2-pyridinyl)pyrazole-3-carboxylic acid ethyl ester | 9.81 g | C(C)OC(=O)C1=NNC(=C1)C1=NC=CC=C1 | C11H11N3O2
